US05221750
Synthesis of Compound (10), 5-t-butyl 2-(4-nitrophenyl)-4-isoxazolin-3-one:
5.0 g of 4-fluoronitrobenzene, 5.0 g of 5-t-butyl-3-hydroxyisoxazole, 4.0 g of potassium t-butoxide, and 70 ml of toluene were mixed, and after adding 0.5 g of 1-(2-ethylhexyl)pyridinium chloride to the mixture, the resultant mixture was refluxed for 10 hours. The reaction mixture obtained was cooled and carefully applied to silica gel column chromatography to provide 0.6 g of the above-described compound with a yield of 6.5%. The melting point thereof was 125° C. to 127° C.

reactant | 4-fluoronitrobenzene | 5.0 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 5-t-butyl-3-hydroxyisoxazole | 5.0 g | C(C)(C)(C)C1=CC(=NO1)O | C7H11NO2
reactant | potassium t-butoxide | 4.0 g | CC(C)([O-])C.[K+]
reactant | 1-(2-ethylhexyl)pyridinium chloride | 0.5 g | [Cl-].C(C)C(C[N+]1=CC=CC=C1)CCCC
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 5-t-butyl 2-(4-nitrophenyl)-4-isoxazolin-3-one | 0.6 g, yield of 6.5% | C(C)(C)(C)C1=CC(N(O1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C13H14N2O4
